US06008245
A solution of 9.6 g (33.8 mmol) of 6-benzyloxy-2,2-dimethylchroman-4-ol and 0.2 g of p-toluenesulfonic acid in 85 ml of toluene was heated under reflux on a water separator for 1 h. After cooling, the mixture was washed twice with sodium bicarbonate solution, dried over magnesium sulfate and concentrated i. vac., giving 7.6 g of 6-benzyloxy-2,2-dimethyl-2H-chromen.

reactant | 6-benzyloxy-2,2-dimethylchroman-4-ol | 33.8 mmol, 9.6 g | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)O | C18H20O3
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 85 ml | C1(=CC=CC=C1)C | C7H8
product | 6-benzyloxy-2,2-dimethyl-2H-chromen | 7.6 g | C(C1=CC=CC=C1)OC=1C=C2C=CC(OC2=CC1)(C)C | C18H18O2
